US09422271B2
At 20° C. (using an ice bath for the temperature control), 3-cyclopropyl-1H-pyrazol-5-amine (1.192 g, 9.68 mmol, 1.5 eq) in ethanol (15 ml) was added into a solution of compound 2,4-dibromo-6-methyl-5-((trimethylsilyl)ethynyl)pyrimidine (2.246 g, 6.45 mmol, 1.0 equiv.) in ethanol (15 mL). The reaction was stirred at for 20 h at 20-23° C. Ethanol was removed under reduced pressure 10-20° C. Purified by silica-gel column chromatography (mobile phase: petroleum ether/ethyl acetate=20/1; 5/1) afforded solid product 2-bromo-N-(5-cyclopropyl-1H-pyrazol-3-yl)-6-methyl-5-((trimethylsilyl)ethynyl)pyrimidin-4-amine (500 mg, 22%). LC-MS (m/z)=392.0 [M+2H]+.

reactant | 3-cyclopropyl-1H-pyrazol-5-amine | 9.68 mmol, 1.192 g, 1.5 eq | C1(CC1)C1=NNC(=C1)N | C6H9N3
reactant | 2,4-dibromo-6-methyl-5-((trimethylsilyl)ethynyl)pyrimidine | 6.45 mmol, 2.246 g, 1.0 equiv. | BrC1=NC(=C(C(=N1)Br)C#C[Si](C)(C)C)C | C10H12Br2N2Si
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 2-bromo-N-(5-cyclopropyl-1H-pyrazol-3-yl)-6-methyl-5-((trimethylsilyl)ethynyl)pyrimidin-4-amine | 500 mg, 22% | BrC1=NC(=C(C(=N1)NC1=NNC(=C1)C1CC1)C#C[Si](C)(C)C)C | C16H20BrN5Si
